US04576953
Formaldehyde (37% w/w solution in water, 0.82 ml.), glacial acetic acid (0.82 ml.) and sodium cyanoborohydride (0.70 g.) were added to a solution of 2-[(1-aminocyclopropyl)methylthio]-3-phenylquinoline hydrochloride (1.2 g.) in ethanol (35 ml.). The mixture was stirred at ambient temperature for 4 hr., poured into saturated sodium bicarbonate solution (200 ml.), and extracted with ethyl acetate (3×100 ml.). The ethyl acetate extract was washed with brine (3×20 ml.), dried (Na2SO4), and evaporated in vacuo to dryness. The residual oil was chromatographed on silica gel (Merck Kieselgel 60, Art No. 9385, grain size 0.040-0.063 mm., 230-400 mesh ASTM; 180 g.) using chloroform as eluant. The relevant fraction was evaporated in vacuo to dryness, the residual oil (1.1 g.) was dissolved in methanol (20 ml.), and concentrated hydrochloric acid (0.3 ml.) was added. The resulting solution was evaporated in vacuo to dryness, and the residue was crystallised from a mixture of ethanol and diethyl ether, to yield 2-[(1-dimethylaminocyclopropyl)methylthio]-3-phenylquinoline hydrochloride, m.p. 219°.

reactant | Formaldehyde | 0.82 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.70 g | C(#N)[BH3-].[Na+]
reactant | 2-[(1-aminocyclopropyl)methylthio]-3-phenylquinoline hydrochloride | 1.2 g | Cl.NC1(CC1)CSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | acetic acid | 0.82 ml | C(C)(=O)O | C2H4O2
product | 2-[(1-dimethylaminocyclopropyl)methylthio]-3-phenylquinoline hydrochloride | Cl.CN(C1(CC1)CSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | InChI=1S/C21H22N2S.ClH/c1-23(2)21(12-13-21)15-24-20-18(16-8-4-3-5-9-16)14-17-10-6-7-11-19(17)22-20;/h3-11,14H,12-13,15H2,1-2H3;1H
